US07982071B2
((3-Bromophenoxy)methyl)cycloheptane was coupled with N-allyl-2,2,2-trifluoroacetamide following the method used in Example 10 except that the mixture was heated for 23 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and partitioned between EtOAc and water. The combined organics were washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. Purification by flash chromatography (10% EtOAc-hexanes) gave (E)-N-(3-(3-(cycloheptylmethoxy)phenyl)allyl)-2,2,2-trifluoroacetamide. Yield (0.7015 g, 52%): 1H NMR (400 MHz, CDCl3) δ 7.23 (t, J=7.6 Hz, 1H), 6.90-6.94 (m, 2H), 6.81 (dd, J=8.4, 1.6 Hz, 1H), 6.56 (d, J=15.6 Hz, 1H), 6.39 (br s, 1H), 6.12-6.19 (m, 1H), 4.13 (t, J=6.0 Hz, 2H), 3.73 (d, J=9.6 Hz, 2H), 1.92-2.10 (m, 1H), 1.82-1.90 (m, 2H), 1.42-1.76 (m, 8H), 1.24-1.36 (m, 2H).

reactant | ((3-Bromophenoxy)methyl)cycloheptane | BrC=1C=C(OCC2CCCCCC2)C=CC1 | C14H19BrO
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
product | (E)-N-(3-(3-(cycloheptylmethoxy)phenyl)allyl)-2,2,2-trifluoroacetamide | C1(CCCCCC1)COC=1C=C(C=CC1)/C=C/CNC(C(F)(F)F)=O | C19H24F3NO2
